US05158956
To a solution of 8-bromo-2-tetralone (10 gm, 44.4 mMol) in toluene (175 ml) was added pyrrolidine (6.6 ml), and the solution was stirred at reflux for three hours. The volatiles were removed in vacuo to give 8-bromo-3-pyrrolidino-1,2-dihydronaphthalene as a brown oil. To this oil in p-dioxane (60 mL) was added methyl iodide (20 mL, 322 mMol), and the resulting solution was stirred at reflux for eighteen hours. The reaction mixture was diluted with water (60 mL) and acetic acid (3.2 mL), and heating was continued for an additonal three hours. After this time the solution was cooled to room temperature and the volatiles removed in vacuo. The residue was suspended in water and extracted well with diethyl ether. The organic phases were combined, washed with saturated aqueous NaHCO3, dried with Na2SO4 and concentrated in vacuo to give an orange oil. Purification by flash chromatography (33% diethyl ether in hexane) gave the title compound as a light orange oil (6.88 gm, 65%).

reactant | 8-bromo-2-tetralone | 44.4 mMol, 10 gm | BrC=1C=CC=C2CCC(CC12)=O | C10H9BrO
reactant | pyrrolidine | 6.6 ml | N1CCCC1 | C4H9N
solvent | toluene | 175 ml | C1(=CC=CC=C1)C | C7H8
product | 8-bromo-3-pyrrolidino-1,2-dihydronaphthalene | BrC=1C=CC=C2C=C(CCC12)N1CCCC1 | C14H16BrN
